US05872115
(b) 5-n-butylcarbamyloxy-2-(N'-n-butylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide
{2-amino-5-hydroxy-N-[(1-diphenylmethylpiperidin-4-yl)methyl]-benzamide and n-butyliso-cyanate}: mp 197°-199° C.; 1H NMR(CDCl3)ppm: 0.90 (3H, t), 1.20-1.90 (11H, m), 2.88 (2H, m), 3.18 (2H, td), 3.25 (2H, dd), 4.23 (1H, s), 5.31 (1H, bs), 6.88 (1H, dd), 6.97 (1H, d), 7.10-741 (11H, m), 7.95 (1H, d), 8.66 (1H, s), 9.40 (1H, s); and,

reactant | 2-amino-5-hydroxy-N-[(1-diphenylmethylpiperidin-4-yl)methyl]-benzamide | NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)O | C26H29N3O2
reactant | n-butyliso-cyanate | C(CCC)N=C=O | C5H9NO
product | 5-n-butylcarbamyloxy-2-(N'-n-butylureido)-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | C(CCC)NC(=O)OC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)NC(=O)NCCCC | C36H47N5O4
